US09212184B2
To a stirred solution of 6-bromo-8-methylsulfanyl-imidazo[1,2-a]pyrazine (210.0 g, 860.3 mmol) in DMF (4200 mL) was added NIS (212.9 g, 946.3 mmol, 1.1 eq) in one portion at rt. After 18 h stirring at 60° C. the dark solution was evaporated and the brown residue was dissolved in DCM (7 L), washed with water (2×5 L) and sole (2×5 L) and dried over sodium sulphate. Crystallization by careful removal of solvent yielded 255 g (80.1%) 6-bromo-3-iodo-8-methylsulfanyl-imidazo[1,2-a]pyrazine: 1H-NMR (300 MHz, d6-DMSO): δ=8.24 (1H, s), 7.79 (1H, s), 2.46 (3H, s) ppm.

reactant | 6-bromo-8-methylsulfanyl-imidazo[1,2-a]pyrazine | 860.3 mmol, 210.0 g | BrC=1N=C(C=2N(C1)C=CN2)SC | C7H6BrN3S
reactant | NIS | 946.3 mmol, 212.9 g, 1.1 eq | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DMF | 4200 mL | CN(C)C=O | C3H7NO
product | 6-bromo-3-iodo-8-methylsulfanyl-imidazo[1,2-a]pyrazine | 255 g, 80.1% | BrC=1N=C(C=2N(C1)C(=CN2)I)SC | C7H5BrIN3S
